US08580762B2
Compound 19: 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo [2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoic acid (490 mg, 0.79 mmol) and 4-tert-butylbenzene-1,2-diamine (155 mg, 0.946 mmol) in N,N-Dimethylformamide (8.1 ml) was treated with N,N-Diisopropylethylamine (0.453 ml, 2.60 mmol) dropwise followed by N,N,N′,N′-Tetramethyl-0-(7-azabenzotriazol-1-yl)uronium Hexafluorophosphate (449 mg, 1.18 mmol) in one portion. The reaction mixture was stirred at RT overnight. The reaction mixture was concentrated under high vacuum and the residue was partitioned between 50 ml EtOAc and 50 ml 1/1 H2O/sat NaHCO3. The aqueous phase was extracted with 30 ml EtOAc and the combined organic phase was washed with 30 ml portions of H2O and brine. The organic phase was dried over Na2SO4, filtered and concentrated to give a glass/stiff foam. The crude material was purified by flash chromatography (SiO2, eluting with 4% 7N NH3 in CH3OH/CH2Cl2) to give the desired intermediate as a mixture of amide regioisomers (400 mg). A solution of intermediate (0.40 g) in Acetic acid (15 ml) was heated at 65° C. for 2.5 h, the reaction mixture was cooled and placed under high vacuum to remove the acetic acid. The residue was taken up in 60 ml CH2Cl2 and washed with 40 ml portions of sat NaHCO3 and 2% Na2CO3 solution. The organic phase was dried over Na2SO4, filtered and concentrated to yield a glass/stiff foam. The material was placed on high vacuum and used directly in the next step (380 mg)

reactant | 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo [2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoic acid | 0.79 mmol, 490 mg | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C(C)C)C=CC(=C1)OC | C34H47N5O6
reactant | 4-tert-butylbenzene-1,2-diamine | 0.946 mmol, 155 mg | C(C)(C)(C)C=1C=C(C(=CC1)N)N | C10H16N2
reactant | N,N-Diisopropylethylamine | 2.60 mmol, 0.453 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-Dimethylformamide | 8.1 ml | CN(C=O)C | C3H7NO
product | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(C(C)C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C44H59N7O4
